US07381818B2
Methyl 3-{6-[bis(4-methoxyphenyl)phenylmethoxy]hexanoyl}pyrrolo[4,5-e]indoline-7-carboxylate 15
A solution of methyl pyrrolo[4,5-e]indoline-7-carboxylate (2.7 g, 12.5 mmol) prepared according to Boger et al (J. Org. Chem. 52:1521 (1987)), 4-nitrophenyl 4-[bis(4-methoxyphenyl)phenylmethoxy]hexanoate (6.9 g, 12.5 mmol) and triethylamine (2 mL) in 50 mL of anhydrous DMF was stirred at room temperature for 5 h and then concentrated. The resulting oil was left at room temperature overnight (˜15 h). The oil was partitioned between ethyl acetate and 5% sodium bicarbonate. The organic phase was washed twice with diluted sodium bicarbonate, saturated sodium chloride and dried over sodium sulfate. The crude product obtained after removal of the solvent was crystallized from ethyl acetate. The yield of the crystalline product 15 was 5.9 g (75%). 1H NMR (DMSO-d6) δ 11.94 (s, 1H), 8.24 (d, J=9 Hz, 1H), 7.4-7.2 (m, 10H), 7.07 (s, 1H), 6.87 (d, J=9 Hz, 4H), 4.16 (t, J=8 Hz, 2H), 3.87 (s, 3H), 3.72 (s, 6H), 3.28 (t, J=8 Hz, 2H), 2.96 (t, J=6 Hz, 2H), 2.42 (t, J=7 Hz, 2H), 1.58 (m, 4H), 1.41 (m, 2H).

reactant | methyl pyrrolo[4,5-e]indoline-7-carboxylate | 12.5 mmol, 2.7 g | C1=CNC=2C1=C1CC(NC1=CC2)C(=O)OC | C12H12N2O2
reactant | 4-nitrophenyl 4-[bis(4-methoxyphenyl)phenylmethoxy]hexanoate | 12.5 mmol, 6.9 g | COC1=CC=C(C=C1)C(OC(CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C33H33NO7
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{6-[bis(4-methoxyphenyl)phenylmethoxy]hexanoyl}pyrrolo[4,5-e]indoline-7-carboxylate | COC1=CC=C(C=C1)C(OCCCCCC(=O)N1C=CC2=C3CC(NC3=CC=C21)C(=O)OC)(C2=CC=CC=C2)C2=CC=C(C=C2)OC | C39H40N2O6
